US07153859B2
2-[(tert-Butoxy)carbonylamino]acetic acid (1 g) is dissolved in tetrahydrofuran (4 ml), and thereto are added dropwise triethylamine (0.8 ml) and isobutyl chloroformate (0.8 ml) at −20° C., and the mixture is stirred at −10° C. for 5 minutes. To the mixture is added dropwise a suspension of 8,9-dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (the compound obtained in Example 1-(6)) (1.6 g) in methylene chloride (15 ml), and the mixture is stirred at room temperature overnight. The reaction solution is concentrated under reduced pressure, and extracted with methylene chloride. The extract is washed with a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography on silica gel (eluent; chloroform:ethyl acetate=4:1) to give 8,9-dimethoxy-2-(tert-butoxycarbonyl)aminoacetyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (872 mg).

reactant | 2-[(tert-Butoxy)carbonylamino]acetic acid | 1 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 8,9-dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3)OC | C20H24N2O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 8,9-dimethoxy-2-(tert-butoxycarbonyl)aminoacetyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | 872 mg | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3C(CNC(=O)OC(C)(C)C)=O)OC | C27H35N3O5
